US05977184
One hundred (100) grams of rutin was dissolved in one (1) liter of lN hydrochloric acid at a temperature of 80-90° C., and allowed to react at that temperature for a total of 3 hours, forming a yellowish-brown precipitate. The resultant mixture was allowed to cool to room temperature and the precipitate removed by filtration, with continual washing with distilled water, until a pH of 6.0-6.5 was obtained. The precipitate was dried and redissolved in 90% ethyl alcohol, and filtered to remove impurities, with the alcohol subsequently distilled off. The remaining precipitate was then suspended in 200 ml of distilled water. Gradually, a solution of lN sodium hydroxide was added, until a clear, golden-brown solution without a precipitate was obtained. This solution was oven dried at a temperature of 70-80° C., yielding a brown powder of quercetin chalcone. The quercetin chalcone produced by this method was soluble in distilled water, a concentration of 20% quercetin chalcone in water was readily produced. Quercetin, on the other hand, was almost totally insoluble in water.

reactant | rutin | C[C@H]1[C@@H]([C@H]([C@H]([C@@H](O1)OC[C@@H]2[C@H]([C@@H]([C@H]([C@@H](O2)OC3=C(OC=4C=C(C=C(C4C3=O)O)O)C=5C=CC(=C(C5)O)O)O)O)O)O)O)O | C27H30O16
solvent | hydrochloric acid | Cl | ClH
product | quercetin chalcone | C1=CC(=C(C=C1C2=C(C(=O)C=3C(=CC(=CC3O2)O)O)O)O)O.C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | InChI=1S/C15H10O7.C15H12O/c16-7-4-10(19)12-11(5-7)22-15(14(21)13(12)20)6-1-2-8(17)9(18)3-6;16-15(14-9-5-2-6-10-14)12-11-13-7-3-1-4-8-13/h1-5,16-19,21H;1-12H
